US08034812B2
Production of 3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-4-fluorophenyl methyl carbonate
Using a solution of 3-amino-4-fluorophenyl methyl carbonate hydrochloride (740 mg, 3.34 mmol) and 1,3-dimethyl-1H-pyrazole-5-carbonylchloride (556 mg, 3.51 mmol) in N,N-dimethylacetamide (10 mL), and by a reaction in the same manner as in Example 148, the title compound (895 mg, 87%) was obtained as a white powder.

reactant | 3-amino-4-fluorophenyl methyl carbonate hydrochloride | 3.34 mmol, 740 mg | Cl.C(OC1=CC(=C(C=C1)F)N)(OC)=O
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonylchloride | 3.51 mmol, 556 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-4-fluorophenyl methyl carbonate | 895 mg, 87% | C(OC1=CC(=C(C=C1)F)NC(=O)C1=CC(=NN1C)C)(OC)=O | C14H14FN3O4
